US08283353B2
2′-fluoro-4′-(hydroxymethyl)biphenyl-2-carbonitrile
A mixture of (2-fluoro-4-formylphenyl)boronic acid (35.3 g), 2-cyano-phenylboronic acid (40.0 g), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (1.7 g), tetrabutylammonium bromide (0.68 g), 2M aqueous sodium carbonate solution (200 mL) and toluene (600 mL) was stirred at 100° C. for 72 hr under an argon atmosphere. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (150 mL) and methanol (150 mL), sodium borohydride (8.7 g) was added, and the mixture was stirred at room temperature for 1 hr. After evaporation of the solvent under reduced pressure, the residue was extracted with water and ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (14.1 g, 30%).

reactant | (2-fluoro-4-formylphenyl)boronic acid | 35.3 g | FC1=C(C=CC(=C1)C=O)B(O)O | C7H6BFO3
reactant | 2-cyano-phenylboronic acid | 40.0 g | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | sodium carbonate | 2M, 200 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.68 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 1.7 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2′-fluoro-4′-(hydroxymethyl)biphenyl-2-carbonitrile | 14.1 g, 30% | FC1=C(C=CC(=C1)CO)C=1C(=CC=CC1)C#N | C14H10FNO
